US07687491B2
(19a) 4-(2-Chlorophenoxy)benzoic acid
The title compound (1.0 g) was synthesized in a yield of 84% as a yellowish white crystalline solid by conducting the similar reaction to that mentioned in Example 10 (10e) using 4-fluorobenzaldehyde (0.60 g, 5.0 mmol), 2-chlorophenol (0.90 g, 7.0 mmol), potassium carbonate (1.7 g, 13 mmol), 2-methyl-2-butene (2.7 ml, 25 mmol), potassium dihydrogenphosphate (1.7 g, 13 mmol) and sodium hypochlorite (1.4 g, 15 mmol).

reactant | 4-fluorobenzaldehyde | 5.0 mmol, 0.60 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-chlorophenol | 7.0 mmol, 0.90 g | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium carbonate | 13 mmol, 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methyl-2-butene | 25 mmol, 2.7 ml | CC(C)=CC | C5H10
reactant | potassium dihydrogenphosphate | 13 mmol, 1.7 g | P(=O)(O)(O)[O-].[K+]
reactant | sodium hypochlorite | 15 mmol, 1.4 g | Cl[O-].[Na+]
product | 4-(2-Chlorophenoxy)benzoic acid | 1.0 g, yield of 84% | ClC1=C(OC2=CC=C(C(=O)O)C=C2)C=CC=C1 | C13H9ClO3
